US05464788
4-Hydroxypiperidine (15.52 g, 0.153 mol) in methylene chloride (100 ml) was treated with a solution of di-t-butyl dicarbonate (33.2 g, 0.152 mol) in methylene chloride (100 ml) added dropwise over 20 min. The mixture was stirred at ambient temperature for 3 hours, then evaporated to dryness in vacuo. The residue was concentrated from ether to give 1-Boc-4-hydroxypiperidine.

reactant | 4-Hydroxypiperidine | 0.153 mol, 15.52 g | OC1CCNCC1 | C5H11NO
reactant | di-t-butyl dicarbonate | 0.152 mol, 33.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Boc-4-hydroxypiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
